* Actual SKY130 transistor frontend; ideal R/C passives, schematic only.
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice ss
.include /repo/v2/analog/frontend/results/isolated/sampling_ss_1.62_85_g16_r1/frontend_pdk_snapshot.spice
.temp 85.0
VDD VDD 0 1.62
VCM VCM 0 0.81
.include /repo/v2/analog/frontend/results/isolated/sampling_ss_1.62_85_g16_r1/adc_blocks_snapshot.spice

VIP SP 0 PULSE(0.7987500000000001 0.82125 10u 10n 10n 10u 20u)
VIN SN 0 PULSE(0.82125 0.7987500000000001 10u 10n 10n 10u 20u)

RSP SP IP 350
RSN SN IN 350
XPGA IP IN OP ON VDD 0 VCM sky130_v2_pga RF=10000 RG=275.0

VACQ ACQ 0 PULSE(0 1.62 10u 1n 1n 2.49u 10u)
BACQB ACQB 0 v=1.62-v(acq)
VRST RST 0 PULSE(0 1.62 8u 1n 1n 1u 10u)
BRSTB RSTB 0 v=1.62-v(rst)
XRIP OP FILTP 0 frontend_r R=150
XRIN ON FILTN 0 frontend_r R=150
XCFP FILTP 0 frontend_c4p
XCFN FILTN 0 frontend_c4p
XTGP FILTP HP ACQ ACQB VDD 0 adc_tgate
XTGN FILTN HN ACQ ACQB VDD 0 adc_tgate
XCP HP VCM adc_mim_bank COUNT=4096
XCN HN VCM adc_mim_bank COUNT=4096
XRSTP VCM HP RST RSTB VDD 0 adc_tgate
XRSTN VCM HN RST RSTB VDD 0 adc_tgate
* Explicit testbench leakage only, avoids mathematically floating held nodes.
RLEAKP HP VCM 1g
RLEAKN HN VCM 1g
.control
set noaskquit
set wr_singlescale
set wr_vecnames

tran 5n 40u
let od=v(op)-v(on)
let hd=v(hp)-v(hn)
let cm=(v(op)+v(on))/2
wrdata sampling.dat od hd cm v(acq) v(sp) v(sn)
quit
.endc
.end
